US07750155B2
A mixture of methyl (2E)-3-[5-({(3R)-1-[2-(3-fluorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]acrylate (235 mg) and 1N—NaOH aq. (1.3 mL) in MeOH (4.7 mL) was heated at 50° C. for 3 hours. After cooling, 1N—HCl (1.37 mL) was added to the solution. The mixture was evaporated and azeotroped with dioxane and toluene to give a crude (2E)-3-[5-({(3R)-1-[2-(3-fluorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]acrylic acid (226 mg).

reactant | methyl (2E)-3-[5-({(3R)-1-[2-(3-fluorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]acrylate | 235 mg | FC=1C=C(C=CC1)CCN1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)OC | C20H23FN4O2
reactant | NaOH | 1.3 mL | [OH-].[Na+]
reactant | HCl | 1.37 mL | Cl | ClH
solvent | MeOH | 4.7 mL | CO | CH4O
product | (2E)-3-[5-({(3R)-1-[2-(3-fluorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]acrylic acid | 226 mg | FC=1C=C(C=CC1)CCN1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)O | C19H21FN4O2
